US04072696
2 G. of 1-acetamido-2-nitro-4-(prop-2-en-1-ylthio)-benzene is treated with 20 ml. methanol and 10 ml. 5N aqueous sodium hydroxide at 20°-25° C for one hour. The mixture is diluted with water and the crude product filtered off. Recrystallization from benzene yields 1-amino-2-nitro-4-(prop-2-en-1-ylthio)benzene. This latter compound in 200 ml. acetone is treated with 4 g. methoxy carbonyl isothiocyanate at room temperatue for several days (i.e., until no starting material is present). The mixture is concentrated and the residue triturated with methanol to yield 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-(prop-2-en-1-ylthio)benzene.

reactant | 1-acetamido-2-nitro-4-(prop-2-en-1-ylthio)-benzene | C(C)(=O)NC1=C(C=C(C=C1)SCC=C)[N+](=O)[O-] | C11H12N2O3S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-amino-2-nitro-4-(prop-2-en-1-ylthio)benzene | NC1=C(C=C(C=C1)SCC=C)[N+](=O)[O-] | C9H10N2O2S
